US09427475B2
Step E: benzyl (2-{[α-D-mannopyranosyl-(1→3)-[α-D-mannopyranosyl-(1→6)]-4-O-benzyl-β-D-glucopyranosyl]oxy}ethyl)carbamate
To a solution of benzyl (2-{[2,3,4,6-tetra-O-benzoyl-α-D-mannopyranosyl-(1→3)-[2,3,4,6-tetra-O-benzoyl-α-D-mannopyranosyl-(1→6)]-2-O-benzoyl-4-O-benzyl-β-D-glucopyranosyl]oxy}ethyl)carbamate (3.39 g, 1.984 mmol) in CH3OH (30 mL) was added NaOCH3 (0.4 mL, 0.2 mmol, 0.5 M in CH3OH). After stirring at rt for 24 hr, amberlite IR 120 (H) ion exchange resin (pre-washed with CH3OH 3×30 mL) was added to the reaction mixture. The resulting mixture was allowed to stir for additional 15 min. The resin was filtered off and washed with CH3OH (3×5 mL). The filtrate was concentrated to give the title compound. UPLC Method B: calculated for C35H49NO18 771.29, observed m/e: 772.42 [M+1]; Rt=2.51 min.

reactant | benzyl (2-{[2,3,4,6-tetra-O-benzoyl-α-D-mannopyranosyl-(1→3)-[2,3,4,6-tetra-O-benzoyl-α-D-mannopyranosyl-(1→6)]-2-O-benzoyl-4-O-benzyl-β-D-glucopyranosyl]oxy}ethyl)carbamate | 1.984 mmol, 3.39 g | C(C1=CC=CC=C1)(=O)O[C@@H]1[C@H](O[C@@H]([C@H]([C@@H]1OC(C1=CC=CC=C1)=O)OC(C1=CC=CC=C1)=O)COC(C1=CC=CC=C1)=O)O[C@@H]1[C@H]([C@@H](O[C@@H]([C@H]1OCC1=CC=CC=C1)CO[C@@H]1[C@@H](OC(C2=CC=CC=C2)=O)[C@@H](OC(C2=CC=CC=C2)=O)[C@H](OC(C2=CC=CC=C2)=O)[C@H](O1)COC(C1=CC=CC=C1)=O)OCCNC(OCC1=CC=CC=C1)=O)OC(C1=CC=CC=C1)=O | C98H85NO27
reactant | NaOCH3 | 0.2 mmol, 0.5 M, 0.4 mL | O([Na])C
solvent | CH3OH | 30 mL | CO | CH4O
product | benzyl (2-{[α-D-mannopyranosyl-(1→3)-[α-D-mannopyranosyl-(1→6)]-4-O-benzyl-β-D-glucopyranosyl]oxy}ethyl)carbamate | [C@H]1([C@@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)O[C@@H]1[C@H]([C@@H](O[C@@H]([C@H]1OCC1=CC=CC=C1)CO[C@@H]1[C@@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)OCCNC(OCC1=CC=CC=C1)=O)O | C35H49NO18
